US07919508B2
Scheme D, Step D4 (1R,3S)-1-(4-Trifluoromethylbenzyl)-4-(1-bromomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidine
Add 4-trifluoromethylbenzyl bromide (7.2 g) and NMP (20 mL) to REM bound (1R,3S)-4-(1-bromomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidine (2.0 g 0.78 mmol/g of loading) in a 50 mL shaking vessel. Shake the reaction mixture at room temperature overnight, filter and wash three times each with NMP, dichloromethane, methanol, and dichloromethane. To this resin add of dichloromethane (18.6 mL) and of DIEA (1.4 mL). Shake the resulting mixture at room temperature overnight, filter and wash the resin twice each with dichloromethane, methanol, and dichloromethane. Combine the filtrates concentrate and add Amberlite IRA-67 (2.0 g) with of dichloromethane (20 mL). Shake the resulting mixture at room temperature for 4 hours, filter and wash twice each with dichloromethane, methanol, and dichloromethane. Combine the filtrates and concentrate to yield the title compound. CIMS 512.1 (MH+), tR (min)=3.52.

reactant | 4-trifluoromethylbenzyl bromide | 7.2 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | (1R,3S)-4-(1-bromomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidine | 2.0 g | BrC[C@@H]1O[C@@H](CC2=C(C(=CC=C12)C)OC)C1CCNCC1 | C17H24BrNO2
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
product | (1R,3S)-1-(4-Trifluoromethylbenzyl)-4-(1-bromomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidine | FC(C1=CC=C(CN2CCC(CC2)[C@H]2O[C@H](C3=CC=C(C(=C3C2)OC)C)CBr)C=C1)(F)F | C25H29BrF3NO2
